US06316477B1
1-(2,6-Dichloro-4-trifluoromethylphenyl)-5-methoxymethylideneamino-4-methylthio-3-(1,2,4-oxadiazol -3-yl)pyrazole (Compound No. 2-1)
5-Amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-methylthio-3-pyrazolecarboxamide oxime (1.77 g, 4.4 mmol) was dissolved in 25 ml of trimethyl orthoformate, and then p-toluenesulfonic acid monohydrate (130 mg) was added at room temperature. The mixture was heated. under reflux for 2 hours. The trimethyl orthoformate was distilled off under reduced pressure and the residue was dissolved in 60 ml of ethyl acetate. After the solution was washed with 120 ml of an aqueous saturated sodium chloride solution and dried over anhydrous magnesium sulfate, the solvent was distilled off to obtain a yellow crystal which was washed with n-hexane to yield 1.47 g (3.3 mmol) of the title compound as a pale yellow crystal. Yield 74%.

reactant | 5-Amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-methylthio-3-pyrazolecarboxamide oxime | 4.4 mmol, 1.77 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C(N)=NO)SC | C12H10Cl2F3N5OS
reactant | p-toluenesulfonic acid monohydrate | 130 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | trimethyl orthoformate | 25 ml | C(OC)(OC)OC | C4H10O3
product | 1-(2,6-Dichloro-4-trifluoromethylphenyl)-5-methoxymethylideneamino-4-methylthio-3-(1,2,4-oxadiazol -3-yl)pyrazole | 3.3 mmol, 1.47 g, Yield 74% | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(C(=C1N=COC)SC)C1=NOC=N1 | C15H10Cl2F3N5O2S
